data/pmechdb/original/mc_train_fold0/raw/train.txt
[Li:20][N+](C1CCCC1C(=O)OC)(C(C)C)C(C)C.[Br-:10]>>[Li-:20]([N+](C1CCCC1C(=O)OC)(C(C)C)C(C)C)[Br:10] 10=20,
CN(C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C>>CN(C)[Si:10](C)(C)C.CS(=O)(=O)[O-:11] 10,11=11
C[N:10](C)N.C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>C[N+:10](C)([CH2:20]C1=CC=C(C=C1)C#N)N.[Cl-:21] 10=20;20,21=21
CC1[C+:20]2CCC([C:11]23[CH2:10]CC(C3)C1(C)C)C(=O)[O-].CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)O>>CC1C(C2C[CH2:10][C:20]13CCC([C+:11]3C2)C(=O)[O-])(C)C.CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)O 10,11=10,20
CC(=O)[C:21](=[CH:20]C(C(C(C(CO)[O-:10])O)O)O)[C:22](=[O:23])C.O.[Na+]>>C[C:22](=[C:21]([CH:20]1C(C(C(C([O:10]1)CO)O)O)O)C(=O)C)[O-:23].O.[Na+] 10=20;22,23=23;20,21=21,22
CC(C1=CC=CC=C1)[O+:21]=[CH:20]CCC2=CC=CC=C2.C[Si](C)(C)[O:12][C:11](=[CH2:10])C1=CC=CC=C1.C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C1=CC=CC=C1)[O:21][CH:20](CCC2=CC=CC=C2)[CH2:10][C:11](=[O+:12][Si](C)(C)C)C3=CC=CC=C3.C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)C2CC[C:20]3(CC2)[OH+:21]CC[O:10]3.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>CC1=CC=C(C=C1)C2CC[C:20](=[O+:10]CC[OH:21])CC2.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][C:21]#CCCCOCC1=CC=C(C=C1)OC.[Li:11][CH2:10]CCC.CN(C)P(=O)(N(C)C)N(C)C>>[H:20][CH2:10]CCC.[Li+:11].COC1=CC=C(C=C1)COCCCC#[C-:21].CN(C)P(=O)(N(C)C)N(C)C 10,11=10,20;20,21=21
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](C)C(C)C)Cl>>[H:10][C:20](C)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O:21]S(=O)(=O)O.CC(=O)CCC=[O:10]>>[H:20][O+:10]=CCCC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C[CH:22]=[C:21]2S(=O)(=O)O)C(=C1)C(F)(F)F 10=20;20,21=21,22
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)N(C)C)Br.[Br-:10]>>[H:20][Br:10].CN(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
[H:20][C:21]12C=C[C:24](=[O+:25]CC3=CC=CC=C3)[C:23]4=[C:22]1C(CN(C(=O)C2SC)C)C5=C(O4)C=C(C(=C5)OC)OC.C(=O)(C(F)(F)F)[O-:10].C(=O)(C(F)(F)F)O>>[H:20][O:10]C(=O)C(F)(F)F.CN1CC2C3=C(C=C(C(=C3)OC)OC)O[C:23]4=[C:24](C=C[C:21](=[C:22]24)C(C1=O)SC)[O:25]CC5=CC=CC=C5.C(=O)(C(F)(F)F)O 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]S(=O)(=O)O.C1CCC2(C(C1)CCCN2)[O-:10]>>[H:20][O:10]C12CCCCC1CCCN2.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC=CCC(=O)OCC)C(CC1=CC=CC=C1)([O-])OC(=NC2CCCCC2)NC3CCCCC3.C1CCN(C1)C2=CC=[N:10]C=C2>>[H:20][N+:10]1=CC=C(C=C1)N2CCCC2.CCOC(=O)CC=CC[O:21]C(CC1=CC=CC=C1)([O-])OC(=NC2CCCCC2)NC3CCCCC3 10=20;20,21=21
[H:20][C:21]#N.C(#N)C(C(=[NH:10])C#N)N.[C-]#N>>[H:20][NH+:10]=C(C#N)C(C#N)N.[C-:21]#N.[C-]#N 10=20;20,21=21
[H:20][C:21](C)(C(=O)OC)[C:22](=[O:23])OC.[H:10][Na:11]>>C[C:21](=[C:22]([O-:23])OC)C(=O)OC.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
C[O-:10].C[O+](C)[Si:20](C)(C)C>>C[O:10][Si-:20](C)(C)(C)[O+](C)C 10=20,
C[CH:20]([NH:10]C)[OH2+:21]>>C[CH:20]=[NH+:10]C.[OH2:21] 10=20;20,21=21
[H:20][NH+:21](CC1(CC2C=CC1O2)O)N=O.[OH2:10].OS(=O)(=O)[O-].[Na+]>>[H:20][OH2+:10].C1C2C=CC(C1(C[NH:21]N=O)O)O2.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][OH2+:21].CCCC=C(C1=C(C=CC(=C1)Br)O)[O-:10].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-]>>[H:20][O:10]C(=CCCC)C1=C(C=CC(=C1)Br)O.[OH2:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[Li+:20].CCCC(=[O:10])N(CCC)CCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li:20][O+:10]=C(CCC)N(CCC)CCC.[BH-](CC)(CC)CC.[AlH4-] 10=20,
C1CC2CCC(=O)C3C2=C(C1)[O:10][CH:20]3[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1CC2CCC(=O)C3C2=C(C1)[O+:10]=[CH:20]3.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CCC1CC[CH2:10][C:11](C1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CCC1CC[CH2:10][CH2:20][C:11](=[OH+:12])C1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
CC(C)(C[C:11](=[CH2:10])[O-:12])[CH:20]=[O:21].O>>CC1(C[C:11](=[O:12])[CH2:10][CH:20]1[O-:21])C.O 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.C[Si](C)(C)OCCC(=[O:10])O>>[H:20][O+:10]=C(CCO[Si](C)(C)C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC=[O:10]>>[H:20][O+:10]=CC=C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][Cl:21].CP(=[O:10])(C)C>>[H:20][O+:10]=P(C)(C)C.[Cl-:21] 10=20;20,21=21
[H:20][OH+:21]C1(CCN(CC1)C2=CC=C(C=C2)C#N)OCCO.[OH2:10].C1CCOC1.OS(=O)(=O)[O-]>>[H:20][OH2+:10].C1CN(CCC1([OH:21])OCCO)C2=CC=C(C=C2)C#N.C1CCOC1.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21](CC)C(CC)(N)OCC.OS(=O)(=O)[O-:10]>>CCC(N)(OCC)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
C[O+](C)[Si-:10](C)(C)(C)[Cl:11]>>C[O+](C)[Si:10](C)(C)C.[Cl-:11] 10,11=11
C[C:20]1([O:21]C(CC(O1)CC(=O)OC)CCO[Si](C)(C)C(C)(C)C)[O-:10].[Li+]>>C[C:20](=[O:10])OC(CC(CCO[Si](C)(C)C(C)(C)C)[O-:21])CC(=O)OC.[Li+] 10=20;20,21=21
[H:10][AlH3-:11].[Li][O+:21]=[C:20](CCC)N(CCC)CCC>>[H:10][C:20](CCC)(N(CCC)CCC)[O:21][Li].[AlH3:11] 10,11=10,20;20,21=21
